US08030489B2
To a mixture of methyl (1R,2S)-2-({N2-(3-acetoxybenzoyl)-N5-[(benzyloxy)carbonyl]-L-ornithyl}amino)cyclopentanecarboxylate (0.35 g), methanol (3.0 ml), and THF (3.0 ml) was added a 1 M aqueous sodium hydroxide solution (1.9 ml) under ice-cooling, followed by stirring at room temperature over one night. Further, to the reaction mixture were added a 1 M aqueous sodium hydroxide solution (1.0 ml) under ice-cooling, followed by stirring at room temperature for 4 hours. After completion of the reaction, 1 M hydrochloric acid was added thereto under ice-cooling, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography, and diisopropyl ether and ethyl acetate were added to the purified product obtained to give a solid. The solid was collected by filtration to obtain (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-N2-(3-hydroxybenzoyl)-L-ornithyl}amino)cyclopentanecarboxylic acid (0.12 g).

reactant | methyl (1R,2S)-2-({N2-(3-acetoxybenzoyl)-N5-[(benzyloxy)carbonyl]-L-ornithyl}amino)cyclopentanecarboxylate | 0.35 g | C(C)(=O)OC=1C=C(C(=O)N[C@@H](CCCNC(=O)OCC2=CC=CC=C2)C(=O)N[C@@H]2[C@@H](CCC2)C(=O)OC)C=CC1 | C29H35N3O8
reactant | methanol | 3.0 ml | CO | CH4O
reactant | sodium hydroxide | 1 M, 1.9 ml | [OH-].[Na+]
reactant | sodium hydroxide | 1 M, 1.0 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 3.0 ml | C1CCOC1 | C4H8O
product | (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-N2-(3-hydroxybenzoyl)-L-ornithyl}amino)cyclopentanecarboxylic acid | 0.12 g | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(C1=CC(=CC=C1)O)=O)C(=O)N[C@@H]1[C@@H](CCC1)C(=O)O | C26H31N3O7
